US08975254B2
a) Ethyl 2-((dimethylamino)methyl)thiazole-4-carboxylate
2-Chloromethyl-thiazole-4-carboxylic acid ethyl ester (500 mg, 2.431 mmol) and potassium carbonate (504 mg, 3.65 mmol) were dissolved in dry DMF. Dimethylamine hydrochloride (218 mg, 2.67 mmol) in dry DMF was added slowly to the reaction mixture and stirred at RT over three nights. DCM was added and the mixture was washed with concentrated NaHCO3 and water. Organic phase was evaporated to dryness and the product was purified by Flash-chromatography. Yield 34.2%. 1H-NMR (400 MHz; CDCl3): δ 1.41 (t, 3H), 2.49 (s, 6H), 3.99 (s, 2H) 4.43 (q, 2H), 8.20 (s, 1H).

reactant | 2-Chloromethyl-thiazole-4-carboxylic acid ethyl ester | 2.431 mmol, 500 mg | C(C)OC(=O)C=1N=C(SC1)CCl | C7H8ClNO2S
reactant | potassium carbonate | 3.65 mmol, 504 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Dimethylamine hydrochloride | 2.67 mmol, 218 mg | Cl.CNC
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | Ethyl 2-((dimethylamino)methyl)thiazole-4-carboxylate | Yield 34.2% | CN(C)CC=1SC=C(N1)C(=O)OCC | C9H14N2O2S
